US08865713B2
Step A: N-(4-Chloro-3-cyano-phenyl)-acetamide.
Acetic anhydride (2.79 mL, 29.5 mmol), 5-amino-2-chloro-benzonitrile (3.00 g, 19.7 mmol), N,N-dimethylaminopyridine (0.241 g, 1.97 mmol), and toluene (50 mL) were combined and heated to reflux for 1.5 h. The reaction mixture was cooled, and water and EtOAc (150 mL) were added. The solid remaining in the mixture was collected and set aside. The aqueous layer was extracted once more with EtOAc, and the combined layers were washed with brine. The reserved precipitate was then dissolved in EtOAc, which was washed with brine. All organic layers were combined, dried, filtered, and concentrated. The residue was triturated with DCM/hexanes to yield the titled compound (3.52 g, 92% yield). This compound did not yield MS data. 1H NMR (400 MHz, CDCl3): 7.92 (d, J=1.0 Hz, 1H), 7.57 (dd, J=2.1, 1.2 Hz, 2H), 2.17 (s, 3H).

reactant | Acetic anhydride | 29.5 mmol, 2.79 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-2-chloro-benzonitrile | 19.7 mmol, 3.00 g | NC=1C=CC(=C(C#N)C1)Cl | C7H5ClN2
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | N-(4-Chloro-3-cyano-phenyl)-acetamide | 3.52 g, 92% yield | ClC1=C(C=C(C=C1)NC(C)=O)C#N | C9H7ClN2O
